US04910307
(e) 2-Amino-9-(2,2-dimethyl-1,3-dioxan-5-ylmethoxy)-6-methoxypurine
A mixture of 2-amino-9-hydroxy-6-methoxypurine (50 mg, 0.276 mmol), 2,2-dimethyl-5-iodo-methyl-1,3-dioxan (70.6 mg, 0.276 mmol), potassium carbonate (40.1 mg, 0.290 mmol) and dimethylformamide (1 ml) was stirred at 20° C. for 3 hours. The suspension was diluted with chloroform (2 ml), filtered and the filtrate evaporated to dryness. The residue was chromatographed on silica gel (eluted with chloroform-ethanol, 100:1) yielding the title compound (59.6 mg, 70%). IR: νmax (KBr) 3396, 1640, 1581, 1480, 1390 cm-1 ; 1H NMR: δH [(CD3)2SO] 1.32 (3H, s, CH3), 1.35 (3H, s, CH3), 2.00 (1H, m, CH), 3.77 (2H, dd, J=11.8, 6.1 Hz, 2×H(ax)), 3.96 (3H, s, OCH3), 3.99 (2 H, dd, J=11.8, 4.1 Hz, 2×H(eq)), 4.36 (2H, d, J=6.8 Hz, CH2ON), 6.60 (2H, br.s, D2O exchangeable, NH2), 8.14 (1H, s, H-8). Found: C, 50.67; H, 6.31; N, 22.00%; m/e 309.1425. C13H19N5O4 +0.2 EtOH requires: C, 50.53; H, 6.41; N, 21.99%; m/e 309.1434.

reactant | 2-amino-9-hydroxy-6-methoxypurine | 0.276 mmol, 50 mg | NC1=NC(=C2N=CN(C2=N1)O)OC | C6H7N5O2
reactant | 2,2-dimethyl-5-iodo-methyl-1,3-dioxan | 0.276 mmol, 70.6 mg | CC1(OCC(C(O1)C)I)C | C7H13IO2
reactant | potassium carbonate | 0.290 mmol, 40.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-9-(2,2-dimethyl-1,3-dioxan-5-ylmethoxy)-6-methoxypurine | 59.6 mg, 70% | NC1=NC(=C2N=CN(C2=N1)OCC1COC(OC1)(C)C)OC | C13H19N5O4
